US08378104B2
trans-4-{4-[7-amino-2-(1,2,3-benzothiadiazol-7-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}cyclohexanol
A mixture of 4-{1-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-1H-pyrazol-4-yl}-2-chloro-furo[2,3-c]pyridin-7-ylamine (179 mg, 0.400 mmol), 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3-benzothiadiazole (105.0 mg, 0.4006 mmol), Pd(PPh3)4 (46.3 mg, 0.0400 mmol), potassium carbonate (166 mg, 1.20 mmol) and 4:1 1,4-dioxane:water (6 mL) was heated in a microwave reactor at 110° C. for 1 h. Aqueous 12 N hydrochloric acid (0.5 mL, 6 mmol) and methanol (2 mL) were added, and the solution was heated to 30° C. for 30 min. The organic solvent was removed in vacuo, and the material was extracted with DCM and saturated aqueous sodium bicarbonate (2×). The organic layer was purified by column chromatography (1 to 3% 7 N ammonia/methanol:DCM), followed by trituration from methanol (5 mL) and filtration to afford 80 mg (50%) of the title compound as a yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 1.31-1.46 (m, 2 H), 1.82-2.02 (m, 4 H), 2.04-2.15 (m, 2 H), 3.48-3.61 (m, 1 H), 4.14-4.25 (m, 1 H), 4.71 (d, J=4.5 Hz, 1 H), 6.42 (s, 2 H), 7.94-8.03 (m, 3 H), 8.06 (s, 1 H), 8.26 (s, 1 H), 8.65 (dd, J=7.5, 0.6 Hz, 1 H), 8.81-8.89 (m, 1 H); MS (ESI): 433.14 [M+H]+; HPLC tR=1.18 min (TOF: polar—3 min).

reactant | 4-{1-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-1H-pyrazol-4-yl}-2-chloro-furo[2,3-c]pyridin-7-ylamine | 0.400 mmol, 179 mg | C(C)(C)(C)[Si](OC1CCC(CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)N)OC(=C2)Cl)(C)C | C22H31ClN4O2Si
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3-benzothiadiazole | 0.4006 mmol, 105.0 mg | CC1(OB(OC1(C)C)C1=CC=CC=2N=NSC21)C | C12H15BN2O2S
reactant | potassium carbonate | 1.20 mmol, 166 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 6 mmol, 12 N, 0.5 mL | Cl | ClH
catalyst | Pd(PPh3)4 | 0.0400 mmol, 46.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 6 mL | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | trans-4-{4-[7-amino-2-(1,2,3-benzothiadiazol-7-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}cyclohexanol | 80 mg, 50% | NC=1N=CC(=C2C1OC(=C2)C2=CC=CC=1N=NSC12)C=1C=NN(C1)[C@@H]1CC[C@H](CC1)O | C22H20N6O2S
